US05371268
Methyl alpha-[2-(1,2-dimethylcyclopropylcarbonyloxymethyl)-phenyl]-beta-methoxyacrylate
A stirred solution of 3.8 g (27 mmol) of ethyl 1,2-dimethylcyclopropanecarboxylate and 1.6 g (29 mmol) of potassium hydroxide in 50 ml of ethanol was refluxed for 8 hours and then evaporated down. The solution was covered with a layer of diethyl ether, after which the resulting precipitate was separated off and washed with diethyl ether. Subsequent reaction of the resulting potassium salt of dimethylcyclopropanecarboxylic acid in 60 ml of N-methylpyrrolidone, at 100° C., with 4.2 g (15 mmol) of methyl alpha-(2-bromomethylphenyl)-beta-methoxyacrylate and purification of the end product were carried out similarly to Example 1. Yield: 69%; colorless oil.

reactant | ethyl 1,2-dimethylcyclopropanecarboxylate | 27 mmol, 3.8 g | CC1(C(C1)C)C(=O)OCC | C8H14O2
reactant | potassium hydroxide | 29 mmol, 1.6 g | [OH-].[K+]
reactant | methyl alpha-(2-bromomethylphenyl)-beta-methoxyacrylate | 15 mmol, 4.2 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Methyl alpha-[2-(1,2-dimethylcyclopropylcarbonyloxymethyl)-phenyl]-beta-methoxyacrylate | Yield: 69% | CC(C1=C(C=CC=C1)C(C(=O)OC)=COC)OC(=O)C1C(C1)C | C18H22O5
